US06635657B1
A. 2-(1-boc-piperidin-4-ylmethylamino)-5-chloro-N-(5-chloropyridin-2-yl)benzamide
To a solution of 1-Boc-piperidine-4-carboxaldehyde (3.5 g, 14 mmol) and 2-amino-5-chloro-N-(5-chloropyridin-2-yl)benzamide (3.9 g, 14 mmol) in benzene (250 mL), a catalytic amount of pyridinium p-toluenesulfonate (0.35 g, 1.4 mmol) was added, followed by 4A molecular sieves. The reaction mixture was heated at reflux for 48 h with azeotropic removal of water. The mixture was subsequently filtered through a pad of diatomaceous earth, washing well with ethyl acetate. The filtrate was concentrated in vacuo to a residue that was taken up in acetic acid (100 mL) and treated with borane-trimethylamine complex (3 g, 42 mmol). The mixture was heated at 70° C. for 24 h; then it was diluted with 2 N NaOH and extracted with dichloromethane The water layer was neutralized with solid sodium bicarbonate, and further extracted with dichloromethane The combined organic extracts were dried with MgSO4, filtered, and concentrated in vacuo to a solid residue (8 g, >100%) which was identified as the desired product and taken on directly to the next step without further purification.

reactant | 1-Boc-piperidine-4-carboxaldehyde | 14 mmol, 3.5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C=O | C11H19NO3
reactant | 2-amino-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 14 mmol, 3.9 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C12H9Cl2N3O
reactant | pyridinium p-toluenesulfonate | 1.4 mmol, 0.35 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | borane-trimethylamine complex | 42 mmol, 3 g | [B-][N+](C)(C)C | C3H9BN
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
solvent | NaOH | 2 N | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(1-boc-piperidin-4-ylmethylamino)-5-chloro-N-(5-chloropyridin-2-yl)benzamide | C(=O)(OC(C)(C)C)N1CCC(CC1)CNC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C23H28Cl2N4O3
